US07189741B2
Preparation of 3-{4-[1-(2-[1,4]dioxan-2-yl-ethyl)-1H-indol-3-yl]-piperidin-1-ylmethyl}-benzoic acid
This compound was prepared following the procedure described in example 71 (part C) starting with 0.06 g (0.19 mmol) of 1-(2-[1,4]dioxan-2-yl-ethyl)-3-piperidin-4-yl-1H-indole and 0.060 g (0.26 mmol) of 3-bromomethyl-benzoic acid methyl ester. After standard purification, 0.037 g (75% of yield) were obtained.

reactant | 1-(2-[1,4]dioxan-2-yl-ethyl)-3-piperidin-4-yl-1H-indole | 0.19 mmol, 0.06 g | O1C(COCC1)CCN1C=C(C2=CC=CC=C12)C1CCNCC1 | C19H26N2O2
reactant | 3-bromomethyl-benzoic acid methyl ester | 0.26 mmol, 0.060 g | COC(C1=CC(=CC=C1)CBr)=O | C9H9BrO2
product | 3-{4-[1-(2-[1,4]dioxan-2-yl-ethyl)-1H-indol-3-yl]-piperidin-1-ylmethyl}-benzoic acid | O1C(COCC1)CCN1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1C=C(C(=O)O)C=CC1 | C27H32N2O4
